US04806642
2-Amino-9-[[2-butoxy-1-(hydroxymethyl)ethoxy]methyl]-9H-purin-6-ol
A mixture of N-[9-[[1-(butoxymethyl)-2-(phenylmethoxy)ethoxy]methyl]-6-hydroxy-9H-purin-2-yl]acetamide (1.15 g, 25.9 mmol), 20% palladium on carbon (0.2 g), cyclohexene (20 ml), and ethanol (10 ml) is heated at reflux under N2. After 8 and 20 hours, additional amounts of catalyst (0.1 g) are added. After 36 hours, the solution is cooled, filtered through celite, and the filter cake is washed with DMF/ethanol. The filtrates are combined, refiltered and concentrated. The residue is mixed with aq. methyl amine (20 ml) and the mixture is heated at reflux for two hours, filtered and concentrated. The residue is recrystallized from water to give the desired product (0.7 g), mp 208°-211° C.

reactant | N-[9-[[1-(butoxymethyl)-2-(phenylmethoxy)ethoxy]methyl]-6-hydroxy-9H-purin-2-yl]acetamide | 25.9 mmol, 1.15 g | C(CCC)OCC(COCC1=CC=CC=C1)OCN1C2=NC(=NC(=C2N=C1)O)NC(C)=O | C22H29N5O5
reactant | cyclohexene | 20 ml | C1=CCCCC1 | C6H10
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-Amino-9-[[2-butoxy-1-(hydroxymethyl)ethoxy]methyl]-9H-purin-6-ol | 0.7 g | NC1=NC(=C2N=CN(C2=N1)COC(COCCCC)CO)O | C13H21N5O4
